US04927944
4-Cyano-5,5-bis(4-fluorophenyl)-2,4-pentadienal
To a dry mixture of 2-cyano-3,3-bis(4-fluorophenyl)-2-propenal (1.29 g, 4.8 mmol) and triphenylphosphoranylidene acetaldehyde (1.54 g, 5.04 mmol) under an inert atmosphere at ambient temperature was added 60 mL of dry benzene. The suspension was warmed to reflux temperature under an inert atmosphere and the reaction was allowed to proceed at reflux temperature for one hour. The crude reaction mixture was poured on a silica gel column saturated with hexanes. The desired product was eluted with 1 liter of hexanes followed by 1 liter of 20% ethyl acetate in hexanes (v/v) to give 1.43 g (100%) of the title compound.

reactant | 2-cyano-3,3-bis(4-fluorophenyl)-2-propenal | 4.8 mmol, 1.29 g | C(#N)C(C=O)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H9F2NO
reactant | triphenylphosphoranylidene acetaldehyde | 5.04 mmol, 1.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
reactant | benzene | 60 mL | C1=CC=CC=C1 | C6H6
product | 4-Cyano-5,5-bis(4-fluorophenyl)-2,4-pentadienal | 1.43 g, 100% | C(#N)C(C=CC=O)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C18H11F2NO
